Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
coffee ground emesis
 
Major Surgical or Invasive Procedure:
EGD with enteroscopy

 
History of Present Illness:
The patient is an ___ year old female with multiple medical 
problems including diabetes, dementia, peripheral vascular 
disease who presented to ___ on ___ with 
coffee ground emesis and melana. 
.
Regarding the GI bleed, she was found to have a hematocrit of 20 
(on ___ was 41). She had an EGD on ___ that showed duodenal 
erosion with stigmata of recent bleeding but no active bleeding. 
Biopsy revealed active chronic gastritis but negative for H. 
pylori. However, she had an episode of hematemesis with 
hematocrit drop to 19 to repeat EGD done on ___. This showed 
adherent blood and inflammation throughout the stomach. A single 
25mm pedunculated polyp with no bleeding was found in the ___ 
part of the duodenum/proximal jejunum out of reach to be 
resected. On ___ she had "fresh blood per rectum" and so a 
tagged RBC scan was obtained but was unremarkable. On ___ 
patient had a melanotic stool so transfer to ___ for push 
enteroscopy was pursued. Since that time her hematocrit has 
remained stable ~27. She has been switched to PO PPI BID and a 
mechanical soft diet. She has received a total of 9 units of 
blood. 
.
Her hospital course was complicated by right axillary DVT 
provoked by PICC placement. The PICC was removed and since then 
RUE pain ansd swelling have significantly decreased. She 
reported bilateral lower extremity swelling and pain so 
bilatearl lower extremity U/S was obtained that demosntrated 
right popliteal and gastrocnemius vein DVT.  Vascular surgery 
was consulted recommended obtaining hematology c/s given 
multiple clots raising possibility for underlying 
hypercoagulable disorder.  Hematology was consulted - "little 
suggestion of occult malignancy or heriditary cause for 
thrombophilia and these episodes have been provoked." No IVC 
filter was placed. No systemic anticoagulation was started. 
.
She currently denies chest pain, dyspnea, dizziness. She 
endorses right lower extremity pain over the past several days. 
She endorses more long-standing left lower extremity pain. 
.
Reviw of systems:  
(+) Per HPI  
(-) Denies fever, chills. Denies headache. Denies cough, 
shortness of breath. Denies chest pain. Denies nausea, vomiting, 
or abdominal pain. No recent change in bowel or bladder habits. 
No dysuria. Denies arthralgias or myalgias.  

 
Past Medical History:
-hyperlidemia 
-diabetes
-insomnia
-hypertension
-macular degeneration
-dementia 
-osteoarthtis 
-peripheral vascular disease

 
Social History:
___
Family History:
-denies hx of colon cancer

 
Physical Exam:
Vitals: 99.2  129/58  77  18  99%RA  
General: comfortable
HEENT:  anicteric sclera
CV:  S1, S2 regular rhythm, normal rate
chest: left subclavian
Lungs: unlabored, CTA bilaterally
Abdomen:  soft, non-tender, non-distended
GU: no foley
Ext:  trace edema ___ extremity
Neuro: alert, oriented self only

 
Pertinent Results:
LABS:  
-___ HCT: 28.5, platlet: 218, WBC: 10.9
___ 10:05AM BLOOD WBC-8.6 RBC-3.13* Hgb-8.9* Hct-28.6* 
MCV-91 MCH-28.5 MCHC-31.2 RDW-15.4 Plt ___
 
OSH LOWER EXTEREMITY U/S:
-DVT in right popliteal  and gastrocnemiusos veins
-no DVT in left lower extremity
-incidental finding of hypoechoic mass with hyperechoic hilium 
in left groin measuring 1.1x1.5cm c/w lymph node but clinical 
correlation suggested

Endoscopy result
Diverticulum in the third part of the duodenum
Polyp in the fourth part of the duodenum, not biopsied in the 
setting of recent reported bleeding
Two lymphangectasias were noted in the third portion of the 
duodenum
Thickened antral fold with superficial erosions in the 
pre-pyloric region (biopsy)
Otherwise normal EGD to mid jejunum

___ 06:40AM BLOOD WBC-6.8 RBC-3.49* Hgb-9.6* Hct-31.1* 
MCV-89 MCH-27.7 MCHC-31.0 RDW-15.5 Plt ___
___ 06:15AM BLOOD WBC-6.7 RBC-3.41* Hgb-9.3* Hct-30.7* 
MCV-90 MCH-27.2 MCHC-30.2* RDW-15.5 Plt ___
___ 06:28AM BLOOD WBC-7.7 RBC-3.21* Hgb-9.0* Hct-28.9* 
MCV-90 MCH-28.0 MCHC-31.2 RDW-15.6* Plt ___
___ 07:45AM BLOOD WBC-8.3 RBC-3.25* Hgb-9.2* Hct-29.4* 
MCV-90 MCH-28.3 MCHC-31.4 RDW-15.4 Plt ___
___ 10:05AM BLOOD WBC-8.6 RBC-3.13* Hgb-8.9* Hct-28.6* 
MCV-91 MCH-28.5 MCHC-31.2 RDW-15.4 Plt ___
___ 06:25AM BLOOD WBC-10.6 RBC-3.21* Hgb-9.3* Hct-29.4* 
MCV-91 MCH-28.9 MCHC-31.7 RDW-15.5 Plt ___
___ 12:30AM BLOOD WBC-10.7# RBC-3.26*# Hgb-9.2*# Hct-29.3*# 
MCV-90 MCH-28.3 MCHC-31.5 RDW-15.8* Plt ___
___ 06:40AM BLOOD ___ PTT-104.4* ___
___ 06:15AM BLOOD ___ PTT-80.1* ___
___ 06:28AM BLOOD ___ PTT-94.8* ___
___ 07:45AM BLOOD ___ PTT-81.1* ___
___ 12:30AM BLOOD ___ PTT-33.4 ___
___ 06:15AM BLOOD Glucose-182* UreaN-6 Creat-0.7 Na-141 
K-3.8 Cl-104 HCO3-31 AnGap-10
___ 06:28AM BLOOD Glucose-166* UreaN-5* Creat-0.8 Na-144 
K-3.9 Cl-106 HCO3-32 AnGap-10
___ 07:45AM BLOOD Glucose-126* UreaN-5* Creat-0.7 Na-146* 
K-3.1* Cl-105 HCO3-34* AnGap-10
___ 10:05AM BLOOD Glucose-292* UreaN-7 Creat-0.7 Na-143 
K-3.4 Cl-105 HCO3-32 AnGap-9
___ 06:25AM BLOOD Glucose-222* UreaN-11 Creat-0.7 Na-142 
K-3.6 Cl-102 HCO3-31 AnGap-13
___ 06:25AM BLOOD ALT-16 AST-14 AlkPhos-83 TotBili-0.8
___ 06:25AM BLOOD Calcium-8.1* Phos-3.4 Mg-2.0 Iron-14*
___ 06:25AM BLOOD calTIBC-195* Ferritn-43 TRF-150*
.
Pathology:
PATHOLOGIC DIAGNOSIS:

Antral fold biopsy:

a. Chronic inactive gastritis.

b. Immunostains for H. pylori are negative.
.
EGD
Impression: Diverticulum in the third part of the duodenum
Polyp in the fourth part of the duodenum, not biopsied in the 
setting of recent reported bleeding
Two lymphangectasias were noted in the third portion of the 
duodenum
Thickened antral fold with superficial erosions in the 
pre-pyloric region (biopsy)
Otherwise normal EGD to mid jejunum 
Recommendations: No evidence of active bleeding. 
Await pathology results. 
Recommend colonoscopy to determine source of melena if 
consistent with patients goals of care.
 

 
Brief Hospital Course:
ASSESSMENT AND PLAN:
___ year old female with multiple medical problems including 
diabetes, dementia, peripheral vascular disease who presented to 
___ on ___ with coffee ground emesis and 
melana concerning for upper GI bleed. She has had two upper 
endoscopies demonstrating duodenal erosion and duodenal polyp 
but without active bleeding source identified. Remained 
hemodynamically stable with HCT stable while on anticoagulaiton. 

  
# ACUTE BLOOD LOSS ANEMIA: Hematocrit stable during 
hospitalization.

# GASTROINTESTINAL BLEED NOS: Patient had endoscopy with 
enteroscopy to mid jejunum and there was no clear evidence of 
bleeding source.  Spoke with family regarding their wish for 
colonoscopy and they did not feel that was within her goals of 
care.   She did not have any further hematochezia or melena 
during her hospitalization.   She was initially on an IV PPI, 
but this was stopped after no further evidence of bleeding was 
found. 

# LOWER EXTREMITY DVT:  She was found to have a right popliteal 
and gastrocnemius vein DVT. This is likely provoked in the 
setting of immobilization. She was seen by hematology at 
___ who felt there was little suggestion of 
heriditary cause for thrombophilia.  After EGD did not reveal a 
source of bleeding, she was put on a heparin drip with coumadin 
to treat her DVT and coumadin started on ___.  Family opted 
for reattempting anticoagulation (knowing risks of 
anticoagulation) instead of opting for filter. Pt did not have 
any evidence of bleeding while on anticoagulation. IV Heparin 
was discontinued ___ and warfarin which had been dosed at 4mg 
was decreased to 2mg given INR 2.8. ___ will need ongoing INR 
monitoring and warfarin dosage adjustement. WOuld consider 
treatment for at least 3 months for a provoked event.

# Low grade fevers noted on ___.  Patient had central 
subclavian line placed at ___ and this was 
removed.  Blood cx drawn and Ucx sent althought patient without 
any urinary symptoms. Work up was unrevealing and pt did not 
have recurrent fever. Pt did not have any pulmonary symptoms.   
Fevers may have been from dvt.

# H/o TIA and peripheral vascular disease: restarted aspirin 81 
mg on ___
 
# DIABETES:   Reduced dose of NPH

#HYPERTENSION:  Her hydralazine was continued, but lasix and ___ 
held given recent bleed. Lasix was not restarted at discharge. 
Would monitor pt to consider if needed in outpt setting after 
stablity ensured.
.
#DEMENTIA:  Continued donepezil.
.
#HYPERLIPIDEMIA:  Continued statin
.
#CHRONIC PAIN:   Continued her fentanyl patch, oxycodone and 
gabapentin.  

 NURSE PRACTITIONER FROM ___  THe NP is 
___ and ___ number is ___ and her email is 
___

. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. NPH 20 Units Breakfast
NPH 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
2. Furosemide 20 mg PO DAILY 
3. HydrALAzine 20 mg PO Q8H 
4. OxycoDONE (Immediate Release)  2.5 mg PO QAM 
5. Fentanyl Patch 12 mcg/h TD Q72H 
6. Atorvastatin 40 mg PO HS 
7. Donepezil 10 mg PO HS 
8. Gabapentin 100 mg PO BID 
9. Pantoprazole 40 mg PO Q12H 
10. OxycoDONE (Immediate Release)  5 mg PO QHS 

 
Discharge Medications:
1. Atorvastatin 40 mg PO HS 
2. Donepezil 10 mg PO HS 
3. Fentanyl Patch 12 mcg/h TD Q72H 
4. Gabapentin 100 mg PO BID 
5. HydrALAzine 20 mg PO Q8H 
6. OxycoDONE (Immediate Release)  2.5 mg PO QAM 
RX *oxycodone 5 mg ___ capsule(s) by mouth twice a day Disp 
#*10 Capsule Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO QHS 
8. NPH 15 Units Breakfast
NPH 8 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
9. Pantoprazole 40 mg PO Q12H 
10. Warfarin 2 mg PO DAILY 
11. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
DVT
GI bleeding 
dementia
diabetes
chronic pain

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted from another hospital for treatment of a blood 
clot in your leg and for evaluation of bleeding. You underwent 
an endoscopy which did not reveal any source of bleeding. You 
were started on blood thinner medication which you tolerated 
well. You will need to continue this medication (warfarin) after 
discharge.
 
Followup Instructions:
___